US06395734B1
3-[5-(6-Hydroxy-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid
4-(2-carboxyethyl)-2-formyl-3-methylpyrrole (543 mg), 450 mg 6-hydroxy-2-oxindole, and 450 μL piperidine in 10 mL of ethanol were heated at 90° C. overnight. The reaction mixture was cooled and concentrated. The residue was suspended in 2 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven overnight to give a brown solid.

reactant | 4-(2-carboxyethyl)-2-formyl-3-methylpyrrole | 543 mg | C(=O)(O)CCC=1C(=C(NC1)C=O)C | C9H11NO3
reactant | 6-hydroxy-2-oxindole | 450 mg | OC1=CC=C2CC(NC2=C1)=O | C8H7NO2
reactant | piperidine | 450 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[5-(6-Hydroxy-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid | OC1=CC=C2C(C(NC2=C1)=O)=CC1=C(C(=CN1)CCC(=O)O)C | C17H16N2O4
